data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8982,"CC(=O)[O-].CN1CC[C:1]([N:2]2CCN(C3=CC=C(C4=CC5=C(C=C4)N(S(=O)(=O)C4=CC=CC=C4)C4=C5C(Cl)=CC=N4)C=C3)CC2)([OH2+:3])CC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3900,"CC(=O)[O-:1].CCC(C)[O+:2](C(C)([O-])OC(C)=O)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10380,"CC(=O)O[B-:1](OC(C)=O)(OC(C)=O)[H:2].CC(=O)[O-].O.O=[N+]([O-])C1=CC=C(N2CC[N+:3](=[C:4]3CC4CC(C4)C3)CC2)C=C1.[Na+]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1687,"CCC1=C(N2CC[N+:1](CC3([O-])CCOCC3)([H:2])CC2)C=C2C(=O)C3=C(C4=C(C=C(C#N)C=C4)N3)C(C)(C)C2=C1.CC[N:3](C(C)C)C(C)C.CO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7309,"CC(C)(C)[CH2:1][O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.O=C1CCC(C(=O)[O-:4])CC1|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,183,"C=CCOC1OC(COC(C)=O)C(OC(C)(C)[OH+:1][H:2])C(O)C1OC(C)=O.CC(=O)[O-:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2635,"C1=CN=CC([C:1]2=[NH+:2]C2)=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1822,"C[S:1](C)(O)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,772,"C[P:1](Cl)Cl.[CH3][Mg:2][Br]|(1, 2)"
train,pmechdb_split_0,0,5175,"CC(C)[C:1]1([H:2])C2=C(C=CC(C(F)(F)F)=C2)C=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,164,"CCOC(=O)[CH:1]([H:2])[C:3](C)=[O:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6994,"C=CC(=O)COC(C)=O.C=CC(C)=O.CC1=C(CCO)S[C:1]([C:2](O)(C2=CC=CC=C2)[H:3])=[N+:4]1CC1=CC=CC=C1.CC[N:5](CC)CC.[Cl-]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8017,"CCSC(C)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,190,"CC1CCC(C(C)C)C(C=CC(C)(C(=O)[O-:1])C(C)C)C1.[N-]=[N+]=N[P:2](OC1=CC=CC=C1)(OC1=CC=CC=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9754,"CC[CH+:1]OC.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,2195,"CCCCCCO.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.COCOC1=C(C(=O)[O:2][H:3])C(C(=O)OC)=C(C2=CC(OC)=C(OC)C=C2)C2=C1C=C(OC)C(OC)=C2OC|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,397,"CCC([O-])[OH+:1][Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,4634,"CCC[CH+]C(C)(C=NC(C)(C)C)[Si:1](CC)(CC)CC.O.O=C(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,7411,"CC=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2856,"CC(=O)C1=CC2=C(C=C1)[C:1](Br)([H:2])[CH+:3]C=C2.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7981,"C1=CC=[N:1]C=C1.CC(=O)OC12CCCCC1C1(O)C2CCCC1[O+:2](S(C)(=O)([O-])Cl)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1457,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)O[I:1]1(OC2CCC34CC2CC3CCC2C(C)(C)C(=O)CCC24C)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,9519,"C[CH:1]([NH2:2])[OH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4462,"CC[O:1][Sn-]([Cl])([Cl])([Cl])[Cl].C[Si](C)(C)CC1=CC(C2=CC=CC=C2)N(CC2=CC=CC=C2)[C:2]([O:3][CH2:4]C)=[O+:5]1|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,2271,"CO[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9205,"CC1=CC23C(=O)C(CC([O+:1](S(C)(C)N4C(=O)CCC4=O)[H:2])C(O)C24OC(=O)OC14)C1C(CC3C)C1(C)C.O=C1CCC(=O)[N-:3]1.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2020,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CCCC(CC(C)C)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8823,"CC[C:1](C)=[NH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4118,"C#CC(C1=CC=C(OCCCCC2=CNC=N2)C=C1)[OH:1].C1=CC=C([C+](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCO.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7203,"C1=CC=C(C[OH:1])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.O=C1CC([C:2](O)=[OH+:3])C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6311,"C[C+]=C[Si:1](C)(C)C.C[O][Zn][O:2]C|(2, 1)"
train,pmechdb_split_0,0,8060,"CCOC(CC)=[NH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8173,"CC[C:1](C)(CCCC(C)(C)C1=CC=CC=C1)[Cl+:2][Al-]([Cl])([Cl])[Cl]|((1, 2), 2)"
train,pmechdb_split_0,0,8735,"C1=CC=[C:1]([Li:2])C=C1.C[C:3](CCC(=O)C1=CC=CC=C1)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,799,"CCC[CH:1]=[O+:2][BH2-:3][H:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,245,"C=C[C:1](C#N)([O:2]C(C)=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1443,"N#CC1=CC=C([CH2:1][Cl:2])C=C1.OCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8250,"C=CC1(C)CCC2(C)[C+](C[Si:1](C)(C)C)C1C([O][Zn-]([Cl])[Cl])CC2C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,6327,"CC(=O)O[C:1](N(C)C)([N:2]1C2=C(C=CC=C2)[N+:3]([O-])=[N:4]1)[N:5](C)C.F[B-](F)(F)F|(5, 1);((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,295,"CCNCC=C(N)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5873,"CC(C)(O[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)C1CCCC2=C(C=CC=C2)[C:1]1([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,284,"C=CC1=C([CH:1]=[O+:2][B-:3]2([CH2:4][C:5](C(=O)OC)=[CH2:6])OC(C)(C)C(C)(C)O2)SC=C1|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
